US04894458
5-Bromo-2,4-difluoro-3-methylbenzenediazonium tetrafluoroborate
To a suspension of 5-bromo-2,4-difluoro-3-methylaniline (24.60 g) in 42% fluoroboric acid (150 ml) with stirring vigorously at -3° to 0° C. was added sodium nitrite (11.47 g) in water (20 ml) dropwise during 40 minutes. After stirring for 1.5 hours at 0° to 5° C., the reacting mixture was cooled with ice bath sufficiently and the resulting precipitate was collected by filtration. This precipitate was washed with small portion of water and ether and dried under reduced pressure to give the title compound (28.83 g) as pale brown prisms, mp 147°-150° C. (decompd.).

reactant | 5-bromo-2,4-difluoro-3-methylaniline | 24.60 g | BrC=1C(=C(C(=C(N)C1)F)C)F | C7H6BrF2N
reactant | sodium nitrite | 11.47 g | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 150 ml | F[B-](F)(F)F.[H+]
solvent | water | 20 ml | O | H2O
product | 5-Bromo-2,4-difluoro-3-methylbenzenediazonium tetrafluoroborate | 28.83 g | F[B-](F)(F)F.BrC=1C(=C(C(=C(C1)[N+]#N)F)C)F | InChI=1S/C7H4BrF2N2.BF4/c1-3-6(9)4(8)2-5(12-11)7(3)10;2-1(3,4)5/h2H,1H3;/q+1;-1
